US06211183B1
Preparation of Ethyl 2-{2,5-dioxo-4-[2-(4-pyndyl)ethyl]piperazino}acetate:
A 25 mL round bottom flask was charged with bromoacetic acid (0.42g, 3.3 mmol), diethyl iminodiacetate (591 μL, 3.0 mmol) and 6 mL of DCM, followed by DCC (0.6809 g, 3.3 mmol). The mixture was stirred at room temperature for about one hour. The white solid DCU was filtered through a glass fritted funnel. The filtrate was concentrated in vacuo and diluted with 4.5 mL dichloromethane, followed by 4-(2-aminoethyl)pyridine (203 μL, 2.0 mmol). The resulting mixture was stirred at room temperature for 18 hour, diluted with DCM and washed with saturated NaHCO3. The aqueous layer was further extracted with DCM and all the organic layers were combined, dried (MgSO4), concentrated in vacuo and chromatographed through 80 g of silica gel eluting with 7% methanol in DCM to afford the title compound as a white solid (0.67 g, 74%).

reactant | bromoacetic acid | 3.3 mmol, 0.42g | BrCC(=O)O | C2H3BrO2
reactant | diethyl iminodiacetate | 3.0 mmol, 591 μL | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | DCC | 3.3 mmol, 0.6809 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-(2-aminoethyl)pyridine | 2.0 mmol, 203 μL | NCCC1=CC=NC=C1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-{2,5-dioxo-4-[2-(4-pyndyl)ethyl]piperazino}acetate | 0.67 g, 74% | O=C1N(CC(N(C1)CCC1=CC=NC=C1)=O)CC(=O)OCC | C15H19N3O4
